US05866572
Chlorine gas was led into a stirred mixture of 6-acetyl-4-(3-chloro-4-fluoroanilino)-quinazoline (0.11 g), methylene chloride (40 ml) and ethanol (60 ml) and the mixture was cooled to a temperature in the range 20° to 25° C. After 10 minutes the supply of chlorine was stopped and the reaction mixture was stirred at ambient temperature for 1 hour. The mixture was evaporated to give 6-(2-chloroacetyl)-4-(3-chloro-4-fluoroanilino)quinazoline (0.114 g) which was used without further purification.

reactant | Chlorine | ClCl | Cl2
reactant | 6-acetyl-4-(3-chloro-4-fluoroanilino)-quinazoline | 0.11 g | C(C)(=O)C=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)F)Cl | C16H11ClFN3O
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 6-(2-chloroacetyl)-4-(3-chloro-4-fluoroanilino)quinazoline | 0.114 g | ClCC(=O)C=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)F)Cl | C16H10Cl2FN3O
